2187-12-17 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   BM yesterday (diarrhea) and TFs started.
   Long family discussion regarding goals of care.  Daughter [**Name (NI) **] would
   like to see if he can improve enough to come home off the ventilator.
   Was discussed that he will likely not be able to breath on his own off
   the machine.  She has a lot of guilt regarding pulling the tube.  Tried
   to reassure her that this was not her decision but was his decision if
   he could speak.  Lawyer to come in on Monday.  Family is in agreement
   regarding no trach; however not ready yet to extubate.
   Need to touch base with palliative care early, perhaps someone can be
   present when lawyer comes in?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-12-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-12-16**] 04:10 PM
   Midazolam (Versed) - [**2187-12-17**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-17**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 76 (60 - 82) bpm
   BP: 155/78(94) {93/45(55) - 173/84(113)} mmHg
   RR: 15 (15 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,750 mL
                                                                    181 mL
   PO:
                  TF:
                                                                      2 mL
                                                                    181 mL
   IVF:
                                                                  2,748 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    210 mL
   Urine:
                                                                    810 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,940 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.35/38/151/22/-3
   Ve: 7 L/min
   PaO2 / FiO2: 302
   Physical Examination
   Gen: Alert, oriented to person, [**Hospital1 5**], "[**Month (only) **]", appears to be an
   effort to speak
   HEENT: NC, AT, PERRL, EOMI, dry mucous membranes
   CV: RRR s1 s2
   Lungs: decreased inspiratory volume, occasional wheezes of the upper
   airways, no lower air way wheezes
   Abd: distended, GJ tube in place under bandage, no pain, BS+
   Ext: no edema, palpable DP's bilaterally
   Labs / Radiology
   296 K/uL
   9.9 g/dL
   127 mg/dL
   2.3 mg/dL
   22 mEq/L
   3.6 mEq/L
   23 mg/dL
   110 mEq/L
   145 mEq/L
   30.0 %
   6.8 K/uL
        [image002.jpg]
                            [**2187-12-15**]  09:38 PM
                            [**2187-12-15**]  11:02 PM
                            [**2187-12-15**]  11:15 PM
                            [**2187-12-16**]  05:33 AM
                            [**2187-12-16**]  08:03 AM
                            [**2187-12-16**]  02:17 PM
   WBC
   8.0
   6.8
   Hct
   35.5
   30.0
   Plt
   321
   296
   Cr
   2.1
   2.2
   2.3
   TCO2
   15
   15
   22
   Glucose
   66
   180
   127
   Other labs: PT / PTT / INR:14.9/26.5/1.3, ALT / AST:40/59, Alk Phos / T
   Bili:57/0.4, Amylase / Lipase:25/13, Differential-Neuts:72.8 %,
   Lymph:17.8 %, Mono:4.2 %, Eos:4.9 %, Lactic Acid:0.8 mmol/L, LDH:213
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 2818**] is a 78 yo M w/advanced [**Hospital **] transferred to MICU [**2-24**]
   progressive metabolic acidosis and respiratory distress.
   .
   #Anion Gap Metabolic Acidosis - most likely [**2-24**] ketosis as well as
   progressive respiratory muscle fatigue with progression of his ALS.
   Also with component of non gap acidosis likely 2/2 NS IVF.
   -IVF with D5 w/3 amps sodium bicarb for fluid repletion
   -start tube feeds once moving bowels
   -after lengthy discussion w/patient and daughter/HCP, will need
   intubation due to progressive resp muscle fatigue with progression of
   ALS as patients wish is to buy time in order to allow for him to get
   his affairs in order.
   .
   #Obstipation - he has not had BM in about 9 days, in the setting of not
   eating and not taking usual bowel reg incld miralax.  Patient denies
   any abdominal pain, with evidence of significant stool in the colon but
   no evidence of SBO.
   -advance bowel reg via GJ tube
   -colace/senna/dulcolax/miralax
   -lacutlose/enemas prn
   .
   #ALS - it is likely that current episode of increased dyspnea and
   acidosis represents progression of underlying ALS.  He has had
   discussions with daughter/HCP and palliative care and goals of care are
   to do what is necessary in order to gain some more time in order to get
   his affairs in order.
   -f/u palliative care reccs
   -social work reccs
   -will intubate in accordance with patients wishes in order to allow him
   to get his affairs in order, at this time patient acknowledging that
   tube would be removed following that and understands that this would
   likely result in his death (daughter and HCP present at the time of
   this conversation)
   .
   #HTN - prior to transfer having significant episodes of HTN up to
   190's-210 likely [**2-24**] respiratory distress and that his BP meds have
   been held for some time.
   -continue hydral 10mg IV prn which seems to be very effective
   -resume po antihypertensives via GJ tube
   .
   #FEN - IVF with D5/nahco3, replete lytes prn, start tube feeds in the
   am pending nutrition reccs
   # Prophylaxis: SC heparin, PPI, bowl regimen
   # HCP daughter [**Name (NI) **] C:[**Telephone/Fax (1) 2819**] h:[**Telephone/Fax (1) 2820**]
   # Code: FULL
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-12-16**] 11:47 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-12-17**] 06:00 AM
   20 Gauge - [**2187-12-17**] 06:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-12-17 10:06:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo man with end stage ALS, recent rapid decline.   Was intubated on
   floor with ? of being extubated terminally after clear up of some legal
   matters.  Daughter hopes that he can improve and go home.
   Continues intubated
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2187-12-17**] 05:00 AM
   Pantoprazole (Protonix) - [**2187-12-17**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-12-17**] 09:00 AM
   Hydralazine - [**2187-12-17**] 09:00 AM
   Other medications:
   tizanadine
   terazosin
   hep s/q
   SSI
   guaifenesin
   hydral prn
   lopressor
   zofran
   ativan
   mirapex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-17**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 103 (60 - 103) bpm
   BP: 196/85(109) {115/54(67) - 196/85(113)} mmHg
   RR: 21 (15 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,748 mL
                                                                    365 mL
   PO:
             TF:
             165 mL
   IVF:
                                                                  2,748 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    350 mL
   Urine:
                                                                    810 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,938 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 36 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: left pupil>right pupil
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   312 K/uL
   109 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.2 mEq/L
   18 mg/dL
   109 mEq/L
   147 mEq/L
   32.7 %
   7.9 K/uL
        [image002.jpg]
                            [**2187-12-15**]  09:38 PM
                            [**2187-12-15**]  11:02 PM
                            [**2187-12-15**]  11:15 PM
                            [**2187-12-16**]  05:33 AM
                            [**2187-12-16**]  08:03 AM
                            [**2187-12-16**]  02:17 PM
                            [**2187-12-17**]  06:19 AM
   WBC
   8.0
   6.8
   7.9
   Hct
   35.5
   30.0
   32.7
   Plt
   [**Telephone/Fax (3) 2843**]
   Cr
   2.1
   2.2
   2.3
   2.0
   TCO2
   15
   15
   22
   Glucose
   66
   180
   127
   109
   Other labs: PT / PTT / INR:14.9/26.5/1.3, ALT / AST:40/59, Alk Phos / T
   Bili:57/0.4, Amylase / Lipase:25/13, Differential-Neuts:72.8 %,
   Lymph:17.8 %, Mono:4.2 %, Eos:4.9 %, Lactic Acid:0.8 mmol/L, LDH:213
   IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Conflict  among patient's children regarding end of life issues for
   patient  ( feeding tube, intubation, home with hopice )
 CONSTIPATION (OBSTIPATION, FOS): Improved
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]): ALS poor prognosis.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Propofol for agitation/sedation.
   Daughter and lawyer to come in today to discuss plan of care.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-12-17**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-15**] 10:33 PM
   18 Gauge - [**2187-12-16**] 05:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2187-12-18 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2187-12-18**] 04:14 AM
   self extubated and asked for daughter [**Name (NI) **] to cme in.
   Stable 02sat. SRR 24.  Placed on 100% face tent.
 INVASIVE VENTILATION - STOP [**2187-12-18**] 04:15 AM
     * Dr [**Last Name (STitle) 2856**] to speak with lawyer as of yesterday evening
     * Patient stable and comfortable overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-12-17**] 09:00 AM
   Hydralazine - [**2187-12-17**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-12-18**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-18**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.8
   HR: 87 (68 - 103) bpm
   BP: 160/79(100) {91/50(61) - 196/85(109)} mmHg
   RR: 25 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,300 mL
                                                                    240 mL
   PO:
                  TF:
                                                                    760 mL
                                                                    240 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    277 mL
   Urine:
                                                                    665 mL
                                                                    277 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    635 mL
                                                                    -37 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 7.4 L/min
   Physical Examination
   Gen: Alert, oriented to person, [**Hospital1 5**], "[**Month (only) **]", appears to be an
   effort to speak
   HEENT: NC, AT, PERRL, EOMI, dry mucous membranes
   CV: RRR s1 s2
   Lungs: decreased inspiratory volume, occasional wheezes of the upper
   airways, no lower air way wheezes
   Abd: distended, GJ tube in place under bandage, no pain, BS+
   Ext: no edema, palpable DP's bilaterally
   Labs / Radiology
   296 K/uL
   10.6 g/dL
   132 mg/dL
   2.3 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   110 mEq/L
   144 mEq/L
   31.2 %
   9.9 K/uL
        [image002.jpg]
                            [**2187-12-15**]  09:38 PM
                            [**2187-12-15**]  11:02 PM
                            [**2187-12-15**]  11:15 PM
                            [**2187-12-16**]  05:33 AM
                            [**2187-12-16**]  08:03 AM
                            [**2187-12-16**]  02:17 PM
                            [**2187-12-17**]  06:19 AM
                            [**2187-12-18**]  02:48 AM
   WBC
   8.0
   6.8
   7.9
   9.9
   Hct
   35.5
   30.0
   32.7
   31.2
   Plt
   [**Telephone/Fax (3) 2865**]96
   Cr
   2.1
   2.2
   2.3
   2.0
   2.3
   TCO2
   15
   15
   22
   Glucose
   66
   180
   127
   109
   132
   Other labs: PT / PTT / INR:14.9/26.5/1.3, ALT / AST:40/59, Alk Phos / T
   Bili:57/0.4, Amylase / Lipase:25/13, Differential-Neuts:72.8 %,
   Lymph:17.8 %, Mono:4.2 %, Eos:4.9 %, Lactic Acid:0.8 mmol/L, LDH:213
   IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 2818**] is a 78 yo M w/advanced [**Hospital **] transferred to MICU [**2-24**]
   progressive metabolic acidosis and respiratory distress.
   .
   #ALS - it is likely that current episode of increased dyspnea and
   acidosis represents progression of underlying ALS.  He has had
   discussions with daughter/HCP and palliative care and goals of care are
   to do what is necessary in order to gain some more time in order to get
   his affairs in order.  Some concern now that daughter/HCP seems to be
   digressing from the discussion last weekend.  Palliative care updated.
   - will try to minimize sedation to keep patient more alert to
   participate in decision making.  Propofol if needed for sedation so
   that it can be rapidly reversed.
   -f/u palliative care recs
   -social work recs
   .
   #Obstipation
 Resolved.  Patient is now stooling.
   -cont. feeds via GJ tube
   -colace/senna/dulcolax/miralax
   -lacutlose/enemas prn
   .
   .#HTN - prior to transfer having significant episodes of HTN up to
   190's-210 likely [**2-24**] respiratory distress and that his BP meds have
   been held for some time.
   -continue hydral 10mg IV prn which seems to be very effective
   -cont. po antihypertensives via GJ tube
   .
   #Anion Gap Metabolic Acidosis
 Resolved.  On transfer most likely [**2-24**]
   ketosis as well as progressive respiratory muscle fatigue with
   progression of his ALS.  Also with component of non gap acidosis likely
   2/2 NS IVF.  Received IVF with D5 w/3 amps sodium bicarb for fluid
   repletion.  After lengthy discussion w/patient and daughter/HCP, was
   intubated due to progressive resp muscle fatigue with progression of
   ALS as patient
s wish is to buy time in order to allow for him to get
   his affairs in order.
   .
   #FEN
 cont. feeds via GJ tube
   # Prophylaxis: SC heparin, PPI, bowl regimen
   # HCP daughter [**Name (NI) **] C:[**Telephone/Fax (1) 2819**] h:[**Telephone/Fax (1) 2820**]
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-15**] 10:33 PM
   18 Gauge - [**2187-12-16**] 05:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-12-18 09:47:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo man with ALS, respiratory failure.  Patient self extubated.
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2187-12-18**] 04:14 AM
   self extubated and asked for daughter [**Name (NI) **] to cme in.
   Stable 02sat. SRR 24.  Placed on 100% face tent.
 INVASIVE VENTILATION - STOP [**2187-12-18**] 04:15 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-12-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-12-18**] 08:00 AM
   Other medications:
   lopressor
   hydral prn
   guafenesin
   terazosin
   tizanidine
   rizuole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-18**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.8
C (96.4
   HR: 89 (68 - 92) bpm
   BP: 129/82(90) {91/50(61) - 160/82(100)} mmHg
   RR: 29 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,300 mL
                                                                    633 mL
   PO:
             TF:
                                                                    760 mL
                                                                    473 mL
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    392 mL
   Urine:
                                                                    665 mL
                                                                    392 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    635 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name, thinks that he is in [**Hospital3 2871**],
   knows year., Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   296 K/uL
   132 mg/dL
   2.3 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   110 mEq/L
   144 mEq/L
   31.2 %
   9.9 K/uL
        [image002.jpg]
                            [**2187-12-15**]  09:38 PM
                            [**2187-12-15**]  11:02 PM
                            [**2187-12-15**]  11:15 PM
                            [**2187-12-16**]  05:33 AM
                            [**2187-12-16**]  08:03 AM
                            [**2187-12-16**]  02:17 PM
                            [**2187-12-17**]  06:19 AM
                            [**2187-12-18**]  02:48 AM
   WBC
   8.0
   6.8
   7.9
   9.9
   Hct
   35.5
   30.0
   32.7
   31.2
   Plt
   [**Telephone/Fax (3) 2865**]96
   Cr
   2.1
   2.2
   2.3
   2.0
   2.3
   TCO2
   15
   15
   22
   Glucose
   66
   180
   127
   109
   132
   Other labs: PT / PTT / INR:14.9/26.5/1.3, ALT / AST:40/59, Alk Phos / T
   Bili:57/0.4, Amylase / Lipase:25/13, Differential-Neuts:72.8 %,
   Lymph:17.8 %, Mono:4.2 %, Eos:4.9 %, Lactic Acid:0.8 mmol/L, LDH:213
   IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Conflict  among patient[s children regarding end of life issues for
   patient  (feeding tube, intubation, home with hopice ).
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Stable respiratory status
   currently.  Bipap if needed.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Currently he thinks that he is in [**Hospital6 2872**], but might
   have been better in terms of MS earlier.  Will come back and reassess.
   He is calm and answering questions appopriately.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-12-18**] 04:48 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-15**] 10:33 PM
   18 Gauge - [**2187-12-16**] 05:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 35

2187-12-18 15:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2187-12-18**] 04:14 AM
   self extubated and asked for daughter [**Name (NI) **] to came in.
   Stable 02sat. SRR 24.  Placed on 100% face tent.
 INVASIVE VENTILATION - STOP [**2187-12-18**] 04:15 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-12-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-12-18**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-18**] 09:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 66 (66 - 92) bpm
   BP: 116/67(79) {80/49(57) - 160/83(101)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,300 mL
                                                                  1,566 mL
   PO:
             TF:
                                                                    760 mL
                                                                  1,206 mL
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                  1,732 mL
   Urine:
                                                                    665 mL
                                                                    832 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    635 mL
                                                                   -166 mL
   Respiratory support: Patient extubated to face tent then intermittently
   on BiPAP, face tent, & nasal canula
   Physical Examination
   Gen: Alert, oriented to person, to being in hospital but says he is in
[**Hospital3 2626**]
, and to year [**2187**].  Speaking requires much effort.
   HEENT: NC, AT, PERRL, EOMI,
   CV: RRR s1 s2
   Lungs: decreased inspiratory volume, clear to auscultation anteriorly
   Abd: soft, GJ tube in place under bandage, no pain, BS+
   Ext: no edema, palpable DP's bilaterally
   Labs / Radiology
   296 K/uL
   10.6 g/dL
   132 mg/dL
   2.3 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   110 mEq/L
   144 mEq/L
   31.2 %
   9.9 K/uL
        [image002.jpg]
                            [**2187-12-15**]  09:38 PM
                            [**2187-12-15**]  11:02 PM
                            [**2187-12-15**]  11:15 PM
                            [**2187-12-16**]  05:33 AM
                            [**2187-12-16**]  08:03 AM
                            [**2187-12-16**]  02:17 PM
                            [**2187-12-17**]  06:19 AM
                            [**2187-12-18**]  02:48 AM
   WBC
   8.0
   6.8
   7.9
   9.9
   Hct
   35.5
   30.0
   32.7
   31.2
   Plt
   [**Telephone/Fax (3) 2865**]96
   Cr
   2.1
   2.2
   2.3
   2.0
   2.3
   TCO2
   15
   15
   22
   Glucose
   66
   180
   127
   109
   132
   Other labs: Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 2818**] is a 78 yo M w/advanced [**Hospital **] transferred to MICU [**2-24**]
   progressive metabolic acidosis and respiratory distress.
   .
   #ALS
 Increased dyspnea and O2 requirement likely related to
   progression of underlying ALS with increased difficulty in maintaining
   the work of breathing.  He was intubated over the weekend after
   discussions with him and his daughter/HCP regarding goals of care and
   to allow him more time to get his affairs in order.  Sedation was
   stopped yesterday and patient self-extubated this morning and was
   transferred to face tent and then BiPAP to support breathing/O2 sats.
   After discussion with the patient and daughter present at the bedside
   the patient stated that he did not want to be reintubated and wanted to
   return home with hospice if possible.  Palliative care has been
   following and assisting with discussing goals of care.  Their
   assistance is appreciated.
   - Discussed with Dr. [**Last Name (STitle) 2856**] in palliative care, he will stop by later
   today; will see if home hospice can be arranged.
   .
   #FEN
 cont. feeds via GJ tube
   # Prophylaxis: SC heparin, PPI, bowl regimen
   # HCP daughter [**Name (NI) **] C:[**Telephone/Fax (1) 2819**] h:[**Telephone/Fax (1) 2820**]
   # Code: DNR/DNI, confirmed with patient and daughter [**Name (NI) **].
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-12-18**] 04:48 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-15**] 10:33 PM
   18 Gauge - [**2187-12-16**] 05:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2187-12-18 21:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2187-12-18**] 04:14 AM
   self extubated and asked for daughter [**Name (NI) **] to cme in.
   Stable 02sat. SRR 24.  Placed on 100% face tent.
 INVASIVE VENTILATION - STOP [**2187-12-18**] 04:15 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-12-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-12-18**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-18**] 09:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 66 (66 - 92) bpm
   BP: 116/67(79) {80/49(57) - 160/83(101)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,300 mL
                                                                  1,566 mL
   PO:
             TF:
                                                                    760 mL
                                                                  1,206 mL
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                  1,732 mL
   Urine:
                                                                    665 mL
                                                                    832 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    635 mL
                                                                   -166 mL
   Respiratory support: Patient extubated to face tent then intermittently
   on BiPAP, face tent, & nasal canula
   Physical Examination
   Gen: Alert, oriented to person, to being in hospital but says he is in
[**Hospital3 2890**]
, and to year [**2187**].  Speaking requires much effort.
   HEENT: NC, AT, PERRL, EOMI,
   CV: RRR s1 s2
   Lungs: decreased inspiratory volume, clear to auscultation anteriorly
   Abd: soft, GJ tube in place under bandage, no pain, BS+
   Ext: no edema, palpable DP's bilaterally
   Labs / Radiology
   296 K/uL
   10.6 g/dL
   132 mg/dL
   2.3 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   110 mEq/L
   144 mEq/L
   31.2 %
   9.9 K/uL
        [image002.jpg]
                            [**2187-12-15**]  09:38 PM
                            [**2187-12-15**]  11:02 PM
                            [**2187-12-15**]  11:15 PM
                            [**2187-12-16**]  05:33 AM
                            [**2187-12-16**]  08:03 AM
                            [**2187-12-16**]  02:17 PM
                            [**2187-12-17**]  06:19 AM
                            [**2187-12-18**]  02:48 AM
   WBC
   8.0
   6.8
   7.9
   9.9
   Hct
   35.5
   30.0
   32.7
   31.2
   Plt
   [**Telephone/Fax (3) 2865**]96
   Cr
   2.1
   2.2
   2.3
   2.0
   2.3
   TCO2
   15
   15
   22
   Glucose
   66
   180
   127
   109
   132
   Other labs: Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 2818**] is a 78 yo M w/advanced [**Hospital **] transferred to MICU [**2-24**]
   progressive metabolic acidosis and respiratory distress.
   .
   #ALS
 Increased dyspnea and O2 requirement likely related to
   progression of underlying ALS with increased difficulty in maintaining
   the work of breathing.  He was intubated over the weekend after
   discussions with him and his daughter/HCP regarding goals of care and
   to allow him more time to get his affairs in order.  Sedation was
   stopped yesterday and patient self-extubated this morning and was
   transferred to face tent and then BiPAP to support breathing/O2 sats.
   At bedside this morning he stated that he trusts his daughter [**Name (NI) **] to
   look after his wife and to place his home deed and safe deposit box in
   her name.  He also stated that he did not want to be reintubated and
   wanted to return home with hospice if possible.  Palliative care has
   been following and assisting with discussing goals of care.  Their
   assistance is appreciated.
   - Discussed with Dr. [**Last Name (STitle) 2856**] in palliative care, he will stop by later
   today; will see if home hospice can be arranged.
   .
   #FEN
 cont. feeds via GJ tube
   # Prophylaxis: SC heparin, PPI, bowl regimen
   # HCP daughter [**Name (NI) **] C:[**Telephone/Fax (1) 2819**] h:[**Telephone/Fax (1) 2820**]
   # Code: DNR/DNI, confirmed with patient and daughter [**Name (NI) **].
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-12-18**] 04:48 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-15**] 10:33 PM
   18 Gauge - [**2187-12-16**] 05:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2187-12-19 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - made DNR/DNI
   - c/o R-sided ear pain, exam unremarkable
   - home with hospice today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-12-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-12-18**] 11:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-19**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 80 (66 - 92) bpm
   BP: 134/63(82) {80/49(57) - 160/83(101)} mmHg
   RR: 25 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,825 mL
                                                                    444 mL
   PO:
                  TF:
                                                                  1,365 mL
                                                                    344 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,877 mL
                                                                    215 mL
   Urine:
                                                                    977 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -52 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   Gen: Alert, oriented to person, to being in hospital but says he is in
[**Hospital3 2626**]
, and to year [**2187**].  Speaking requires much effort.
   HEENT: NC, AT, PERRL, EOMI,
   CV: RRR s1 s2
   Lungs: decreased inspiratory volume, clear to auscultation anteriorly
   Abd: soft, GJ tube in place under bandage, no pain, BS+
   Ext: no edema, palpable DP's bilaterally
   Labs / Radiology
   291 K/uL
   10.5 g/dL
   121 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.7 mEq/L
   29 mg/dL
   109 mEq/L
   145 mEq/L
   31.4 %
   10.4 K/uL
        [image002.jpg]
                            [**2187-12-15**]  09:38 PM
                            [**2187-12-15**]  11:02 PM
                            [**2187-12-15**]  11:15 PM
                            [**2187-12-16**]  05:33 AM
                            [**2187-12-16**]  08:03 AM
                            [**2187-12-16**]  02:17 PM
                            [**2187-12-17**]  06:19 AM
                            [**2187-12-18**]  02:48 AM
                            [**2187-12-19**]  03:11 AM
   WBC
   8.0
   6.8
   7.9
   9.9
   10.4
   Hct
   35.5
   30.0
   32.7
   31.2
   31.4
   Plt
   [**Telephone/Fax (3) 2865**]96
   291
   Cr
   2.1
   2.2
   2.3
   2.0
   2.3
   2.2
   TCO2
   15
   15
   22
   Glucose
   66
   180
   127
   109
   132
   121
   Other labs: PT / PTT / INR:14.9/26.5/1.3, ALT / AST:40/59, Alk Phos / T
   Bili:57/0.4, Amylase / Lipase:25/13, Differential-Neuts:72.8 %,
   Lymph:17.8 %, Mono:4.2 %, Eos:4.9 %, Lactic Acid:0.8 mmol/L, LDH:213
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 2818**] is a 78 yo M w/advanced [**Hospital **] transferred to MICU [**2-24**]
   progressive metabolic acidosis and respiratory distress.
   .
   #ALS
 Increased dyspnea and O2 requirement likely related to
   progression of underlying ALS with increased difficulty in maintaining
   the work of breathing.  He was intubated over the weekend after
   discussions with him and his daughter/HCP regarding goals of care and
   to allow him more time to get his affairs in order.  Sedation was
   stopped yesterday and patient self-extubated this morning and was
   transferred to face tent and then BiPAP to support breathing/O2 sats.
   After discussion with the patient and daughter present at the bedside
   the patient stated that he did not want to be reintubated and wanted to
   return home with hospice if possible.  Palliative care has been
   following and assisting with discussing goals of care.  Their
   assistance is appreciated.
   - Discussed with Dr. [**Last Name (STitle) 2856**] in palliative care, he will stop by later
   today; will see if home hospice can be arranged.
   .
   #FEN
 cont. feeds via GJ tube
   # Prophylaxis: SC heparin, PPI, bowl regimen
   # HCP daughter [**Name (NI) **] C:[**Telephone/Fax (1) 2819**] h:[**Telephone/Fax (1) 2820**]
   # Code: DNR/DNI, confirmed with patient and daughter [**Name (NI) **].
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-12-18**] 09:55 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-15**] 10:33 PM
   18 Gauge - [**2187-12-16**] 05:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2187-12-19 09:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo man with severe ALS.
   24 Hour Events:
   Legal matters settled, so patient is ready to go home with hospice.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-19**] 08:00 AM
   Other medications:
   lopressor
   hydralizine prn
   protonix
   guaifenesin
   terazosin
   zantac
   riluzole
   ssi
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-19**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 90 (66 - 90) bpm
   BP: 155/79(97) {87/49(60) - 176/83(101)} mmHg
   RR: 26 (15 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,825 mL
                                                                    679 mL
   PO:
                  TF:
                                                                  1,365 mL
                                                                    579 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,877 mL
                                                                    485 mL
   Urine:
                                                                    977 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -52 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   291 K/uL
   121 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.7 mEq/L
   29 mg/dL
   109 mEq/L
   145 mEq/L
   31.4 %
   10.4 K/uL
        [image002.jpg]
                            [**2187-12-15**]  09:38 PM
                            [**2187-12-15**]  11:02 PM
                            [**2187-12-15**]  11:15 PM
                            [**2187-12-16**]  05:33 AM
                            [**2187-12-16**]  08:03 AM
                            [**2187-12-16**]  02:17 PM
                            [**2187-12-17**]  06:19 AM
                            [**2187-12-18**]  02:48 AM
                            [**2187-12-19**]  03:11 AM
   WBC
   8.0
   6.8
   7.9
   9.9
   10.4
   Hct
   35.5
   30.0
   32.7
   31.2
   31.4
   Plt
   [**Telephone/Fax (3) 2865**]96
   291
   Cr
   2.1
   2.2
   2.3
   2.0
   2.3
   2.2
   TCO2
   15
   15
   22
   Glucose
   66
   180
   127
   109
   132
   121
   Other labs: PT / PTT / INR:14.9/26.5/1.3, ALT / AST:40/59, Alk Phos / T
   Bili:57/0.4, Amylase / Lipase:25/13, Differential-Neuts:72.8 %,
   Lymph:17.8 %, Mono:4.2 %, Eos:4.9 %, Lactic Acid:0.8 mmol/L, LDH:213
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Conflict  among patient[s children regarding end of life issues for
   patient  ( feeding tube, intubation, home with hopice )
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ALS:  Will have respiratory try MIE to help with mucous clearance.
   Patient ready to go home with hospice.  Will make sure that services
   are in place.
   Patient today is awake, calm, oriented, and in good spirits.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-12-18**] 09:55 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-15**] 10:33 PM
   18 Gauge - [**2187-12-16**] 05:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :D/C Home
   Total time spent: 35 minutes